US08030317B2
(S)-3-((2,2-Dimethyl-1,3-dioxolan-4-yl)methyl)-5-(2-fluoro-4-iodophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (compound 5G):
Sodium hydride (89 mg, 4.7 mmol, 5 eq) was stirred in anhydrous DMF (1 mL) for 10 minutes. 5-(2-Fluoro-4-iodophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (400 mg, 0.94 mmol, 1 eq) in anhydrous DMF (400 μL) was added and the mixture stirred for 10 minutes. (R)-4-(Chloromethyl)-2,2-dimethyl-1,3-dioxolane (260 μl, 1.88 mmol, 2 eq) was added and the mixture subjected to microwave irradiation at 150° C. for 35 minutes. The solvent was removed in vacuo and the residue purified by HPLC. 1H NMR (400 MHz, MeOD) δ ppm 1.37 (s, 3H) 1.47 (s, 3H) 3.70 (s, 3H) 3.85 (dd, J=8.97, 5.68 Hz, 1H) 4.13 (dd, J=13.89, 7.07 Hz, 1H) 4.20 (dd, J=8.72, 6.69 Hz, 1H) 4.38 (dd, J=13.89, 3.03 Hz, 1H) 4.50-4.59 (m, 1H) 5.81 (s, 1H) 7.36 (t, J=8.21 Hz, 1H) 7.62-7.74 (m, 2H) 8.49 (s, 1H). [M+H] calc'd for C20H20FIN4O4, 527; found, 527.

reactant | Sodium hydride | 4.7 mmol, 89 mg, 5 eq | [H-].[Na+]
reactant | 5-(2-Fluoro-4-iodophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 0.94 mmol, 400 mg, 1 eq | FC1=C(C=CC(=C1)I)NC1=C(C(N(C=2N=CNC(C21)=O)C)=O)C | C15H12FIN4O2
reactant | (R)-4-(Chloromethyl)-2,2-dimethyl-1,3-dioxolane | 1.88 mmol, 260 μl, 2 eq | ClC[C@@H]1OC(OC1)(C)C | C6H11ClO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 400 μL | CN(C)C=O | C3H7NO
product | (S)-3-((2,2-Dimethyl-1,3-dioxolan-4-yl)methyl)-5-(2-fluoro-4-iodophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | CC1(OC[C@@H](O1)CN1C=NC2=C(C1=O)C(=CC(N2C)=O)NC2=C(C=C(C=C2)I)F)C | C20H20FIN4O4
